US07772238B2
[2-(ethoxycarbonyl)-1-benzothien-6-yl](methyl)malonic acid.
Di-tert-butyl [2-(ethoxycarbonyl)-1-benzothien-6-yl](methyl)malonate (0.26 g, 0.598 mmol) was dissolved in DCM (1.5 mL) and TFA (1.5 mL) was added. The solution was stirred at room temperature for 2 hours. The solvent was removed in vacuo and the residue partitioned between saturated NaHCO3-EtOAc. The aqueous phase was acidified with 2N HCl and extracted with EtOAc. The combined organic extracts were dried over MgSO4 and concentrated in vacuo to give 0.193 g of product (pale yellow solid, 100%). 1H NMR (DMSO-d6) δ 13.12 (br s, 2H), 8.14 (s, 1H), 8.03 (d, J=1.8 Hz, 1H), 7.95 (d, J=8.4 Hz, 1H), 7.47 (dd, J=8.4, 1.8 Hz, 1H), 4.32 (q, J=7.2 Hz, 2H), 1.77 (s, 3H), 1.31 (t, J=7.2 Hz, 3H).

reactant | Di-tert-butyl [2-(ethoxycarbonyl)-1-benzothien-6-yl](methyl)malonate | 0.598 mmol, 0.26 g | C(C)OC(=O)C=1SC2=C(C1)C=CC(=C2)C(C(=O)OC(C)(C)C)(C(=O)OC(C)(C)C)C | C23H30O6S
reactant | TFA | 1.5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 1.5 mL | C(Cl)Cl | CH2Cl2
product | [2-(ethoxycarbonyl)-1-benzothien-6-yl](methyl)malonic acid | 0.193 g, 100% | C(C)OC(=O)C=1SC2=C(C1)C=CC(=C2)C(C(=O)O)(C(=O)O)C | C15H14O6S
